US04070362
5-Amino-4-butylamino-6-ethylamino-2-methylnicotinic acid ethyl ester is treated with sodium nitrite following the procedure of Example 3c. 7-Butylamino-3-ethyl-5-methyl-3H-[1,2,3]-triazolo[4,5-b]pyridine-6-carboxylic acid ethyl ester is obtained, yield 73%, m.p. 42°-43°. Treatment with 2N hydrochloric acid in ethanol yields the hydrochloride salt.

reactant | 5-Amino-4-butylamino-6-ethylamino-2-methylnicotinic acid ethyl ester | C(C)OC(C1=C(N=C(C(=C1NCCCC)N)NCC)C)=O | C15H26N4O2
reactant | sodium nitrite | N(=O)[O-].[Na+]
product | 7-Butylamino-3-ethyl-5-methyl-3H-[1,2,3]-triazolo[4,5-b]pyridine-6-carboxylic acid ethyl ester | yield 73% | C(C)OC(=O)C=1C(=C2C(=NC1C)N(N=N2)CC)NCCCC | C15H23N5O2
